US05977152
(2R,3R)-2-(2,4-Difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)-3-[(piperidin-4-yl)thio]-2-butanol dihydrochloride
In 20 ml of ethyl acetate were dissolved 557 mg (1.05 mmol) of (2R,3R)-2-(2,4-difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)-3-[[1-(tert-butoxycarbonyl)piperidin-4-yl]thio]-2-butanol, and 2.63 ml (10.5 mmol) of a 4N hydrogen chloride-ethyl acetate solution were added to the solution, followed by stirring of the resulting mixture at 40° C. for 8 hours. After cooling, the precipitated solid was collected by filtration and washed with hexane to obtain 460 mg (yield: 100%) of the desired compound as a colorless powder.

reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)-3-[[1-(tert-butoxycarbonyl)piperidin-4-yl]thio]-2-butanol | 1.05 mmol, 557 mg | FC1=C(C=CC(=C1)F)[C@](C)([C@@](C)(SC1CCN(CC1)C(=O)OC(C)(C)C)N1N=CN=C1)O | C22H30F2N4O3S
reactant | hydrogen chloride-ethyl acetate | 4N | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-2-(2,4-Difluorophenyl)-3-(1H-1,2,4-triazol-1-yl)-3-[(piperidin-4-yl)thio]-2-butanol dihydrochloride | 460 mg, yield: 100% | Cl.Cl.FC1=C(C=CC(=C1)F)[C@](C)([C@@](C)(SC1CCNCC1)N1N=CN=C1)O | InChI=1S/C17H22F2N4OS.2ClH/c1-16(24,14-4-3-12(18)9-15(14)19)17(2,23-11-21-10-22-23)25-13-5-7-20-8-6-13;;/h3-4,9-11,13,20,24H,5-8H2,1-2H3;2*1H/t16-,17-;;/m1../s1
